US06794517B2
The compound was prepared in analogy to W. Steglich et al., Chem. Ber., 107:1488-1498 (1974). Anhydrous hexafluoroacetone (HFA) was prepared by adding HFA trihydrate dropwise to concentrated sulfuric acid heated to 80° C. The resulting gas was once more washed with concentrated sulfuric acid and then passed into the gas space of the reaction flask. A reflux condenser packed with acetone/dry ice was fitted on the gas outlet of the flask.

reactant | HFA trihydrate | C(=O)(C(F)(F)F)C(F)(F)F.O.O.O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | hexafluoroacetone | FC(C(=O)C(F)(F)F)(F)F | C3F6O
